US08975252B2
A solution of potassium hydroxide (41 mg) in water (1 ml) was added to a mixture of tert-butyl {[4-chloro-1-(3-methoxypropyl)-3-methyl-1H-indazol-6-yl]methyl}cyclopropylcarbamate (100 mg), 2-di-tert-butylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl (tBu X-Phos) (8.3 mg), tris(dibenzylideneacetone)dipalladium(0) (9.0 mg) in 1,4-dioxane (1 ml) under argon atmosphere and the mixture was stirred at 100° C. for 90 minutes. A 1N solution of HCl (0.8 ml) and water were added to the reaction mixture under ice-cooling and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane to n-hexane/ethyl acetate=1/2) to give tert-butyl cyclopropyl{[4-hydroxy-1-(3-methoxypropyl)-3-methyl-1H-indazol-6-yl]methyl}carbamate (91 mg) as a pale brown oil.

reactant | potassium hydroxide | 41 mg | [OH-].[K+]
reactant | tert-butyl {[4-chloro-1-(3-methoxypropyl)-3-methyl-1H-indazol-6-yl]methyl}cyclopropylcarbamate | 100 mg | ClC1=C2C(=NN(C2=CC(=C1)CN(C(OC(C)(C)C)=O)C1CC1)CCCOC)C | C21H30ClN3O3
reactant | HCl | 0.8 ml | Cl | ClH
solvent | water | 1 ml | O | H2O
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 9.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-di-tert-butylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl | 8.3 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
product | tert-butyl cyclopropyl{[4-hydroxy-1-(3-methoxypropyl)-3-methyl-1H-indazol-6-yl]methyl}carbamate | 91 mg | C1(CC1)N(C(OC(C)(C)C)=O)CC1=CC(=C2C(=NN(C2=C1)CCCOC)C)O | C21H31N3O4
